US08835451B2
B. [1-[(Z)-Hydroxyimino]-2-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-ethyl]-carbamic acid isobutyl ester
To a solution of N-Hydroxy-2-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetamidine (0.13 g, 0.28 mmol, 1.0 equiv) in 2 Ml DMF was added pyridine (0.023 Ml, 0.31 mmol, 1:1 equiv). The solution was cooled to 0° C., then isobutyl chloroformate (0.04 Ml, 0.31 mmol, 1.1 equiv) was added dropwise via syringe. The reaction was allowed to warm to room temperature and stirred for 2 h. Extractive aqueous workup afforded the title compound which was used in the next step without further purification. (M+H)+571.4.

reactant | N-Hydroxy-2-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetamidine | 0.28 mmol, 0.13 g, 1.0 equiv | ONC(CC1CCC(CC1)C1=CC=C(C=C1)C=1N=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F)=N | C24H25F3N6O
reactant | pyridine | 0.31 mmol, 1 equiv | N1=CC=CC=C1 | C5H5N
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | [1-[(Z)-Hydroxyimino]-2-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-ethyl]-carbamic acid isobutyl ester | C(C(C)C)OC(N\C(\CC1CCC(CC1)C1=CC=C(C=C1)C=1N=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F)=N/O)=O | C29H33F3N6O3
